US08937178B2
A solution of 2-methylbenzo[d]oxazol-6-amine (8.4 g, 56.7 mmol) in pyridine (80 mL) at 0° C. was treated with TFAA (19.8 mL, 141.0 mmol) and stirred at rt for 4 h. The reaction mixture was diluted with water (100 mL) and the product extracted with EtOAc (3×100 mL). The organics were washed with brine, dried over Na2SO4, and concentrated to obtain the crude 2,2,2-trifluoro-N-(2-methylbenzo[d]oxazol-6-yl)acetamide (15.0 g), (MS: ESI +ve, 245.20 [M−H]); 1H NMR: (400 MHz, DMSO) δ: 2.61 (s, 3H), 7.61-7.56 (m, 1H), 7.69-7.67 (d, J=8.4, 1H), 8.04-8.04 (d, J=2, 1H), 11.45 (s, 1H).

reactant | 2-methylbenzo[d]oxazol-6-amine | 56.7 mmol, 8.4 g | CC=1OC2=C(N1)C=CC(=C2)N | C8H8N2O
reactant | TFAA | 141.0 mmol, 19.8 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | pyridine | 80 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 100 mL | O | H2O
product | 2,2,2-trifluoro-N-(2-methylbenzo[d]oxazol-6-yl)acetamide | 15.0 g | FC(C(=O)NC1=CC2=C(N=C(O2)C)C=C1)(F)F | C10H7F3N2O2
